US04711885
Over a period of 20 minutes 29 g of ethyl 4-bromocrotonate are added to 69 g of 1-(3-trifluoromethylphenyl)-piperazine dissolved in 300 ml of anhydrous toluene. The mixture is then heated at reflux for 1 hour. After cooling, the hydrobromide is filtered with suction and the filtrate is concentrate to dryness in vacuo. In this manner crude 4-(3-trifluoromethylphenyl)piperazin-1-ylbut-2-enoic acid ethyl ester is obtained in theoretical yield.

reactant | ethyl 4-bromocrotonate | 29 g | BrC/C=C/C(=O)OCC | C6H9BrO2
reactant | 1-(3-trifluoromethylphenyl)-piperazine | 69 g | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-trifluoromethylphenyl)piperazin-1-ylbut-2-enoic acid ethyl ester | C(C)OC(C(=CC)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F)=O | C17H21F3N2O2
